US06017467
3-fluoro-4-cyanoethynyl-1-(4-propylphenyl) carbonyloxybenzene (Compound No. 153)
To a solution of 20 mmol of 2-fluoro-4-hydroxyphenylpropiolonitrile and 21 mmol of 4-propylbenzoyl chloride in 50 ml of methylene chloride were added dropwise 25 mmol of pyridine, while stirring under ice-cooling and the solution was stirred for a further 3 hours. Water was added to the reaction solution which was extracted with toluene. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to afford a brown oily product. Purification of the product by a silica gel column chromatography and recrystallization from ethanol gave 8 mmol of the title compound.

reactant | 2-fluoro-4-hydroxyphenylpropiolonitrile | 20 mmol | FC1=C(C=CC(=C1)O)C#CC#N | C9H4FNO
reactant | 4-propylbenzoyl chloride | 21 mmol | C(CC)C1=CC=C(C(=O)Cl)C=C1 | C10H11ClO
reactant | pyridine | 25 mmol | N1=CC=CC=C1 | C5H5N
reactant | Water | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-fluoro-4-cyanoethynyl-1-(4-propylphenyl) carbonyloxybenzene | 8 mmol | FC=1C=C(C=CC1C#CC#N)OC(=O)C1=CC=C(C=C1)CCC | C19H14FNO2
